US04226738
Preparation of N,N'-Bis(2-chloro-3-pyridyl)-N,N'-Bis(trifluoromethylsulfonyl)Oxamide
Oxalyl chloride (0.762 gram; 0.006 mole) is added dropwise to a suspension of N-(2-chloro-3-pyridyl)trifluoromethanesulfonamide (2.61 grams; 0.01 mole) and powdered molecular sieves (5.0 grams; Molecular Sieve, Type 3A) in methylene chloride (75 mls) at 0° C. under a nitrogen atmosphere. The mixture is then heated to 60° C., held thereat for 3 hours, and then stirred at room temperature for 60 hours. The reaction mixture is filtered and the filtrate is evaporated to dryness. The resulting residue is extracted with diethyl ether, and the combined ethereal extracts are dried over anhydrous sodium sulfate. The dried ethereal extract is then separated and evaporated to obtain 2.33 grams (81% of theoretical) of crude product.

reactant | Oxalyl chloride | 0.006 mole, 0.762 gram | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-(2-chloro-3-pyridyl)trifluoromethanesulfonamide | 0.01 mole, 2.61 grams | ClC1=NC=CC=C1NS(=O)(=O)C(F)(F)F | C6H4ClF3N2O2S
solvent | methylene chloride | 75 mls | C(Cl)Cl | CH2Cl2
product | N,N'-Bis(2-chloro-3-pyridyl)-N,N'-Bis(trifluoromethylsulfonyl)Oxamide | ClC1=NC=CC=C1N(C(=O)C(=O)N(S(=O)(=O)C(F)(F)F)C=1C(=NC=CC1)Cl)S(=O)(=O)C(F)(F)F | C14H6Cl2F6N4O6S2
